US04315858
Using the method for the preparation of the side chain acid in Example 3, 4.62 g (20 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 8.4 ml (60 mmol) of triethylamine, 8.0 ml (63 mmol) of chlorotrimethylsilane, 200 ml of dichloromethane, and 2.5 ml (30 mmol) of methyl chloroformate gives 5.04 g of 6-[4-(methoxycarbonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 20 mmol, 4.62 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 60 mmol, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 63 mmol, 8.0 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | methyl chloroformate | 30 mmol, 2.5 ml | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-[4-(methoxycarbonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 5.04 g | COC(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C14H12N2O5
